US05395937
[4-(2-Methylpropyl)amino-3-nitroquinolin-2-yl]Trifluoromethanesulfonate
Triethylamine (7 mL, 0.05 mole) was added to a suspension of 3-nitro-2,4-quinolinediol (5 g, 0.024 mole) in methylene chloride (150 mL). The resulting solution was cooled to 0° C. in an ice bath and trifluoromethanesulfonic anhydride (8.4 mL, 0.05 mole) was added dropwise using a syringe pump. After the addition was complete, the reaction was refluxed for 10 minutes then once again cooled to 0° C. in an ice bath. Triethylamine (3.5 mL, 0.025 mole) was added to the reaction mixture followed by the addition of isobutylamine (2.9 mL, 0.029 mole). The reaction was heated at reflux for 30 minutes, cooled to ambient temperature, washed with 100 mL of saturated aqueous sodium bicarbonate then dried over magnesium sulfate. The methylene chloride solution was then put through a layer of silica gel and the silica gel was eluted with additional methylene chloride. The methylene chloride solution was evaporated under vacuum to provide a yellow/orange solid. The structure was confirmed by nuclear magnetic resonance spectroscopy. Mass spectroscopy showed m/z equal to 393. Analysis: Calculated for C14H14F3N3O5S: % C, 42.74; % H, 3.59; % N, 10.68; Found: % C, 42.42; % H, 3.45; % N, 10.49.

reactant | Triethylamine | 0.05 mole, 7 mL | C(C)N(CC)CC | C6H15N
reactant | 3-nitro-2,4-quinolinediol | 0.024 mole, 5 g | [N+](=O)([O-])C=1C(=NC2=CC=CC=C2C1O)O | C9H6N2O4
reactant | trifluoromethanesulfonic anhydride | 0.05 mole, 8.4 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Triethylamine | 0.025 mole, 3.5 mL | C(C)N(CC)CC | C6H15N
reactant | isobutylamine | 0.029 mole, 2.9 mL | C(C(C)C)N | C4H11N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | [4-(2-Methylpropyl)amino-3-nitroquinolin-2-yl]Trifluoromethanesulfonate | CC(CNC1=C(C(=NC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C | C14H14F3N3O5S
